US08557805B2
{2-[5-({6-[(2-Methoxyethoxy)methyl]pyridin-3-yl}oxy)-7-(tetrahydro-2H-pyran-4-yloxy)-1H-indol-2-yl]-4,5-dihydro-1,3-thiazol-5-yl}acetic acid
To a solution of ethyl{2-[5-({6-[(2-methoxyethoxy)methyl]pyridin-3-yl}oxy)-7-(tetrahydro-2H-pyran-4-yloxy)-1H-indol-2-yl]-4,5-dihydro-1,3-thiazol-5-yl}acetate (190 mg) in ethanol (3 mL) and tetrahydrofuran (3 mL) was added 1N aqueous sodium hydroxide solution (3 mL), and the mixture was stirred at room temperature for 1 hr. The reaction mixture was concentrated, and the concentrate was washed with ethyl acetate. To the aqueous layer was added 1N hydrochloric acid (3 mL), and the mixture was extracted with ethyl acetate. The organic layer was washed with saturated brine, dried over magnesium sulfate, filtered and concentrated under reduced pressure to give the title compound (157 mg, yield 87%) as a brown oil.

reactant | ethyl{2-[5-({6-[(2-methoxyethoxy)methyl]pyridin-3-yl}oxy)-7-(tetrahydro-2H-pyran-4-yloxy)-1H-indol-2-yl]-4,5-dihydro-1,3-thiazol-5-yl}acetate | 190 mg | C(C)OC(CC1CN=C(S1)C=1NC2=C(C=C(C=C2C1)OC=1C=NC(=CC1)COCCOC)OC1CCOCC1)=O | C29H35N3O7S
reactant | sodium hydroxide | 1N, 3 mL | [OH-].[Na+]
solvent | ethanol | 3 mL | C(C)O | C2H6O
solvent | tetrahydrofuran | 3 mL | O1CCCC1 | C4H8O
product | {2-[5-({6-[(2-Methoxyethoxy)methyl]pyridin-3-yl}oxy)-7-(tetrahydro-2H-pyran-4-yloxy)-1H-indol-2-yl]-4,5-dihydro-1,3-thiazol-5-yl}acetic acid | 157 mg, yield 87% | COCCOCC1=CC=C(C=N1)OC=1C=C2C=C(NC2=C(C1)OC1CCOCC1)C=1SC(CN1)CC(=O)O | C27H31N3O7S
